US09107916B2
A. 2-{5-[(4-fluorobenzyl)oxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile
To a mixture of 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile (185 mg, 0.99 mmol), 4-fluorobenzyl alcohol (188 mg, 1.49 mol), PPh3 (391 mg, 1.49 mmol) and THF (4 mL) cooled in an ice-water bath, TMAD (257 mg, 1.49 mmol) was added. The reaction mixture was stirred overnight at rt, filtered, and concentrated before purification by prep-HPLC to give the title compound (40 mg, 13%). 1H NMR (400 MHz, CDCl3): δ 5.14 (2H, s), 5.68 (1H, s), 7.00-7.05 (2H, m), 7.33-7.36 (3H, m), 7.52 (1H, s), 7.96 (1H, s), 8.64 (1H, s). [M+H] Calc'd for C16H11FN4O, 295. Found, 295.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | 0.99 mmol, 185 mg | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | 4-fluorobenzyl alcohol | 1.49 mol, 188 mg | FC1=CC=C(CO)C=C1 | C7H7FO
reactant | PPh3 | 1.49 mmol, 391 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | TMAD | 1.49 mmol, 257 mg | CN(C)C(=O)/N=N/C(=O)N(C)C | C6H12N4O2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 2-{5-[(4-fluorobenzyl)oxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile | 40 mg, 13% | FC1=CC=C(COC2=CC=NN2C2=NC=CC(=C2)C#N)C=C1 | C16H11FN4O
